US07943634B2
Step 7: Methyl-7-cyclopentyloxy-2-methylbenzo[b]furan-4-carboxylate
To a suspension of 7-cyclopentyloxy-2-methylbenzo[b]furan-4-carboxylic acid (40.0 g, 0.153 moles) and potassium carbonate (42.0 g, 0.184) in acetone (400 mL) added dimethyl sulfate (24.0 g, 0.307 moles) and refluxed for 4-5 hrs. acetone (305 mL) was distilled off and reaction mixture was cooled to 5° C., ice cold water (500 mL) was and the solid separated was filtered, washed with water (2×100 mL) and dried to get off white solid (43.0 g).

reactant | 7-cyclopentyloxy-2-methylbenzo[b]furan-4-carboxylic acid | 0.153 moles, 40.0 g | C1(CCCC1)OC1=CC=C(C2=C1OC(=C2)C)C(=O)O | C15H16O4
reactant | potassium carbonate | 42.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 0.307 moles, 24.0 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 400 mL | CC(=O)C | C3H6O
product | Methyl-7-cyclopentyloxy-2-methylbenzo[b]furan-4-carboxylate | 43.0 g | COC(=O)C1=CC=C(C=2OC(=CC21)C)OC2CCCC2 | C16H18O4
